US04833159
1,1-Bis-(4-trifluoromethylphenyl)-2-(1,2,4-1H-triazolyl)propan-1-ol (0.5 g) was added portionwise over a period of 15 minutes to a suspension of sodium hydride (58 mg, freed from dispersion in oil by washing with hexane) in dry dimethylformamide (50 cm3) under a nitrogen atmosphere. The mixture was stirred for 2 hours then methyliodide (0.17 g) in dimethylformamide (2 cm3) was added dropwise. After stirring for 3 hours the mixture was partitioned between water and chloroform. The chloroform layer was separated, washed with water, dried over anhydrous magnesium sulphate and concentrated by evaporation of the solvent to yield 1,1-bis(4-trifluoromethylphenyl)-1-methoxy-2-(1,2,4-1H-triazolyl)propane as a colourless oil.

reactant | 1,1-Bis-(4-trifluoromethylphenyl)-2-(1,2,4-1H-triazolyl)propan-1-ol | 0.5 g | FC(C1=CC=C(C=C1)C(C(C)N1N=CN=C1)(O)C1=CC=C(C=C1)C(F)(F)F)(F)F | C19H15F6N3O
reactant | sodium hydride | 58 mg | [H-].[Na+]
reactant | methyliodide | 0.17 g | CI | CH3I
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 cm3 | CN(C=O)C | C3H7NO
product | 1,1-bis(4-trifluoromethylphenyl)-1-methoxy-2-(1,2,4-1H-triazolyl)propane | FC(C1=CC=C(C=C1)C(C(C)N1N=CN=C1)(OC)C1=CC=C(C=C1)C(F)(F)F)(F)F | C20H17F6N3O
